US07429605B2
i) [6-(4-Fluor-phenyl)-2-methyl-pyridin-3-yl]-methanol
4.67 g (123 mmol) lithium aluminium hydride was suspended in 220 ml tetrahydrofuran (THF) and stirred for 20 min. at room temperature. The mixture was cooled to 0° C. and a solution of 15.95 g (61.5 mmol) 6-(4-Fluoro-phenyl)-2-methyl-nicotinic acid ethyl ester (WO 03/068749) in 100 ml added within 15 min. at the same temperature. The mixture was stirred overnight at room temperature (r.t.) and cooled to 0° C. 200 ml of saturated sodium chloride solution were added drop by drop and stirring continued for 60 min. Concentrated HCl was added carefully to adjust the pH to 5. Precipitated salts were filtered off and washed with THF. The combined THF-solutions were evaporated and the residue extracted twice with ethyl acetate. The organic phase was dried (sodium sulphate) and evaporated. The orange resin crystallized after a short time, was stirred with ethyl acetate/n-heptane 1:3, isolated by filtration, washed with tert-butyl-methyl ether and dried. The combined mother liquor from the washings was evaporated and the crystalline precipitate treated as above. The combined yield was 9.25 g (69%) of pale yellow powder.

reactant | lithium aluminium hydride | 123 mmol, 4.67 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-(4-Fluoro-phenyl)-2-methyl-nicotinic acid ethyl ester | 61.5 mmol, 15.95 g | C(C)OC(C1=C(N=C(C=C1)C1=CC=C(C=C1)F)C)=O | C15H14FNO2
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
product | [6-(4-Fluor-phenyl)-2-methyl-pyridin-3-yl]-methanol | FC1=CC=C(C=C1)C1=CC=C(C(=N1)C)CO | C13H12FNO
